US05808062
4-Hydroxy-6-(4-methoxy-3-methylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
This compound is prepared by the condensation of diethyl ester of [(phenylmethyl)thio]propanedioic acid (1 g, mmol) with the corresponding trimethylsilylenol ether of 4'-methoxy-3'-methylacetophenone as described in general procedure A. Isolated Yield: 68%. m. p. 159°-106° C. 1H NMR (400 MHz, CDCl3) δ 7.67 (dd, 1 H), 7.61 (s, 1 H), 7.2 (m, 5 H), 6.8 (d, 1 H), 6.38 (s, 1 H), 3.96 (s, 2 H), 3.89 (s, 3 H), 2.25 (s, 3 H); IR (KBr) 3432, 2945, 1613, 1507, 1402, 1262, 1142, 1030, 812, 704 cm-1; MS (CI) m/e 355 (78.3), 263 (19.6), 235 (11.8), 149 (12.7), 91 (100); Analysis calc'd for : C, 67.78; H, 5.12; found: C, 67.35; H, 5.17.

reactant | [(phenylmethyl)thio]propanedioic acid | 1 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
reactant | 4'-methoxy-3'-methylacetophenone | COC1=C(C=C(C=C1)C(C)=O)C | C10H12O2
reactant | KBr | [K+].[Br-]
solvent | ether | CCOCC | C4H10O
product | 4-Hydroxy-6-(4-methoxy-3-methylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | Yield: 68% | OC1=C(C(OC(=C1)C1=CC(=C(C=C1)OC)C)=O)SCC1=CC=CC=C1 | C20H18O4S
